US07645789B2
To a solution of 2-iodo-4-nitroaniline (2.0 g, 7.6 mmol) and 2-(tert-butyldimethylsilyloxy)-acetaldehyde (3.5 g, 75% purity, 15 mmol) in methanol (30 mL) was added TFA (1.5 mL) at 0° C. The reaction mixture was stirred at this temperature for 30 min before NaCNBH3 (900 mg, 15 mmol) was added in portions. The mixture was stirred for 2 h and was then quenched with water. The resulting mixture was extracted with EtOAc (30 mL×3), the combined organic extracts were dried over anhydrous Na2SO4 and evaporated under vacuum, and the residue was purified by chromatography on silica gel (5% ethyl acetate/petroleum) to afford [2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-(2-iodo-4-nitro-phenyl)-amine (800 mg, 25%). 1H NMR (300 MHz, CDCl3) δ 8.57 (d, J=2.7 Hz, 1H), 8.12 (dd, J=2.4, 9.0 Hz, 1H), 6.49 (d, J=9.3 Hz, 1H), 5.46 (br s, 1H), 3.89 (t, J=5.4 Hz, 2H), 3.35 (q, J=5.4 Hz, 2H), 0.93 (s, 9H), 0.10 (s, 6H).

reactant | 2-iodo-4-nitroaniline | 7.6 mmol, 2.0 g | IC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | 2-(tert-butyldimethylsilyloxy)-acetaldehyde | 15 mmol, 3.5 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaCNBH3 | 15 mmol, 900 mg | [BH3-]C#N.[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | [2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-(2-iodo-4-nitro-phenyl)-amine | 800 mg, 25% | C(C)(C)(C)[Si](OCCNC1=C(C=C(C=C1)[N+](=O)[O-])I)(C)C | C14H23IN2O3Si
